US07320972B2
This reaction was performed using a PersonalChemistry™ microwave instrument set at normal absorbance, fixed hold time and 30 sec pre-stirring. A 10-mL reaction vial was charged with 4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl trifluoromethanesulfonate (0.27 g, 0.38 mmol), dimethyl phosphite (0.070 mL, 0.76 mmol) and triethylamine (0.15 mL, 1.08 mmol) in toluene (4 mL). Nitrogen was bubbled through the stirred solution for 5 min, tetrakis(triphenylphosphine)palladium(0) (0.1 g) was added, and the solution was covered with a blanket of nitrogen and sealed. The reaction mixture was heated for 11 min at 160° C., then cooled to room temperature and diluted with ethyl acetate. The yellow solution was washed successively with 0.5 M hydrochloric acid (20 mL) water (3×) and brine. The organic solution was dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. Pure dimethyl (4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonate was obtained as a white foam (0.26 g, 65%) by chromatography over silica gel using ethyl acetate-hexane (gradient: 5% ethyl acetate to 100%). 1H NMR (300 MHz, CDCl3) δ 8.00 (dt, J=14.2, 1.5 Hz, 1H), 7.60 (d, J=8.5 Hz, 2H), 7.40(d, J=8.5 Hz, 2H), 6.9-7.8 (m, 12H), 4.68 (t, J=5.7 Hz, 1H), 4.64 (d, J=2.4 Hz, 1H), 3.81 (d, J=0.9 Hz, 1H), 3.77 (d, J=0.9 Hz, 1H), 3.0-3.1 (m, 1H), 1.8-2.2 (m, 4H), 0.88 (s, 9H), 0.02 (s, 3H), −0.16 (s, 3H) ppm

reactant | 4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl trifluoromethanesulfonate | 0.38 mmol, 0.27 g | FC(S(=O)(=O)OC=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1)(F)F | C37H39F4NO5SSi
reactant | dimethyl phosphite | 0.76 mmol, 0.070 mL | P(OC)(OC)[O-]
reactant | triethylamine | 1.08 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | dimethyl (4′-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)phosphonate | [Si](C)(C)(C(C)(C)C)O[C@@H](CC[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)P(OC)(OC)=O)C1=CC=C(C=C1)F | C38H45FNO5PSi
